US06251912B1
Propargyl bromide (17.8 g, 150 mmol) was added dropwise to a mixture of bis(2-methoxy-ethyl)amine (20 g, 150 mmol) and cesium carbonate (49 g, 150 mmol) in 350 mL of acetone. The mixture was stirred overnight under nitrogen at room temperature. The inorganic salts were then filtered off, and the solvent was removed. The residue was dissolved in saturated sodium bicarbonate solution and extracted with ethyl acetate. The organic extracts were then evaporated to give 20 g of bis-(2-methoxy-ethyl)-prop-2-ynyl-amine: mass spectrum (m/e): M+H 172.

reactant | Propargyl bromide | 150 mmol, 17.8 g | C(C#C)Br | C3H3Br
reactant | bis(2-methoxy-ethyl)amine | 150 mmol, 20 g | COCCNCCOC | C6H15NO2
reactant | cesium carbonate | 150 mmol, 49 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetone | 350 mL | CC(=O)C | C3H6O
product | bis-(2-methoxy-ethyl)-prop-2-ynyl-amine | 20 g | COCCN(CC#C)CCOC | C9H17NO2
